US20010018525A1
step 4 (5′-Bromo-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid
The title compound was prepared as a white solid (0.062 g, 83%) from (5′-bromo-[ 1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid methyl ester using a procedure similar to step 2 of Example 36, mp>50 °C. (decomp.); 1H NMR (CDCl3) δ3.81 (s, 2H), 7.38-7.50 (m, 7H), 7.52-7.56 (m, 5H); IR (KBr) 3400, 3050, 2900, 1730, 1565, 1495, 1460, 1420, 1210, 1060, 875, 735, 700, and 610 cm−1; mass spectrum [(+) FAB], m/z 382 (M)+, 405 (M+Na)+; Anal. Calcd. for C20H15BrO3: C, 62.68; H, 3.95; N, 0.00, Found: C, 62.25; H, 4.01; N, 0.01.

reactant | (5′-bromo-[ 1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid methyl ester | COC(COC1=C(C=C(C=C1C1=CC=CC=C1)Br)C1=CC=CC=C1)=O | C21H17BrO3
reactant | KBr | [K+].[Br-]
product | (5′-Bromo-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid | BrC=1C=C(C(=C(C1)C1=CC=CC=C1)OCC(=O)O)C1=CC=CC=C1 | C20H15BrO3
